US07700641B2
E. Synthesis of [3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetic acid
To a solution of methyl[3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetate (5.90 g, 15.0 mmol) in THF/water (2/1 v/v, 120 mL) was added lithium hydroxide monohydrate (1.26 g, 28.0 mmol). The mixture was stirred at ambient temperature overnight. Most THF was removed under vacuum and water (150 mL) was added. The solution was extracted with ethyl acetate/hexanes (1/3 v/v, 50.0 mL). The water layer was acidified with 1 N HCl solution until the pH value reached 2 and extracted with ethyl acetate (200 mL). The organic layer was washed with water, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness to afford the title compound (5.00 g, 88%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.29 (td, 1H), 7.21 (dd, 1H), 7.05 (td, 1H), 6.87 (d, 1H), 6.76 (d, 1H), 6.72-6.64 (m, 2H), 5.90-5.86 (m, 2H), 3.65 (t, 2H), 3.43 (d, 1H), 3.11 (d, 1H), 1.70-1.55 (m, 2H), 1.36-1.22 (m, 4H), 0.85 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 178.2, 174.0, 148.0, 147.1, 143.4, 132.6, 131.4, 128.7, 124.4, 122.7, 119.8, 108.9, 108.2, 107.2, 101.2, 52.6, 41.5, 40.4, 29.0, 26.6, 22.3, 14.0; MS (ES+) m/z 404.0 (M+23), 382.0 (M+1).

reactant | methyl[3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetate | 15.0 mmol, 5.90 g | COC(CC1(C(N(C2=CC=CC=C12)CCCCC)=O)C1=CC2=C(OCO2)C=C1)=O | C23H25NO5
reactant | lithium hydroxide monohydrate | 28.0 mmol, 1.26 g | O.[OH-].[Li+]
solvent | THF water | 120 mL | C1CCOC1.O
product | [3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetic acid | 5.00 g, 88% | O1COC2=C1C=CC(=C2)C2(C(N(C1=CC=CC=C21)CCCCC)=O)CC(=O)O | C22H23NO5
